US04265890
Reaction of 8-hydroxy-7-methoxy-3-methyl-6-phenylthio-2,3,4,5-tetrahydro-1H-3-benzazepine with acetyl bromide in trifluoroacetic acid gave 8-acetoxy-7-methoxy-3-methyl-6-phenylthio-2,3,4,5-tetrahydro-1H-3-benzazepine; hydrochloride salt m.p. 240°-241° C.

reactant | 8-hydroxy-7-methoxy-3-methyl-6-phenylthio-2,3,4,5-tetrahydro-1H-3-benzazepine | OC=1C(=C(C2=C(CCN(CC2)C)C1)SC1=CC=CC=C1)OC | C18H21NO2S
reactant | acetyl bromide | C(C)(=O)Br | C2H3BrO
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 8-acetoxy-7-methoxy-3-methyl-6-phenylthio-2,3,4,5-tetrahydro-1H-3-benzazepine | C(C)(=O)OC=1C(=C(C2=C(CCN(CC2)C)C1)SC1=CC=CC=C1)OC | C20H23NO3S
